Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])([C:13])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:14]([H:15])[H:16],3.67133338184
[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.20080267926
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4],6.8474490491
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.5774020896900005
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],4.580270854559999
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.6069741338800005
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.555387844151
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.3804313076
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],4.07427021036
[C:1]=[O:2].[C:3]#[C:4][C:5](=[O:6])[H:7]>>[C:1][O:2][C:3]#[C:4][C:5](=[O:6])[H:7],0.901452208378
[H:1][C:2]([H:3])=[C:4]=[C:13]([H:14])[H:15].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-2.15605976311
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[O:7][C:8]([H:9])[H:10]>>[C:1][C@:2]1([C:3]([H:4])([H:5])[H:6])[O:7][C:8]1([H:9])[H:10],-0.4600343492199999
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][O:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7],-4.10061253266
[C:5][O:6][H:7].[H:1][C:2][C:3]#[C:4][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.70935868676
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.30324045327
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.67117871509
[O:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-1.76412579002
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.84273863135
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.18552388902
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-4.054235866530002
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.8917813378
[C:1]#[C:2][C:3][C:9]([H:10])[H:11].[C:4]([H:5])([H:6])=[C:7][H:8]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.27875800495
[C:3]1([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.81508245306
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7],4.02921837012
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],5.41542077524
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7],3.91150497017
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][H:5],4.72336701496
